US05968875
5,6-Dichloronicotinic acid (2.00 g, 10.4 mmol) was dissolved in 50 mL isopropanol to which was added BF3 -diethyl etherate (3.84 mL, 3 eq). The solution was refluxed overnight. When cooled, the solution was poured into 100 mL water and extracted with Et2O (2×100 mL) The organics were collected, washed with water, brine, 1.0 N NaOH, dried over MgSO4, and concentrated to give isopropyl 5,6-dichloronicotinate (0.62 g) as a cream solid.

reactant | 5,6-Dichloronicotinic acid | 10.4 mmol, 2.00 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | water | 100 mL | O | H2O
reactant | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | isopropyl 5,6-dichloronicotinate | 0.62 g | ClC=1C(=NC=C(C(=O)OC(C)C)C1)Cl | C9H9Cl2NO2
